US08357700B2
Ethyl 2-(2-cyanoethyl)-3-oxobutanoate (A-1)
A solution of solid sodium metal (450 mg, 19.75 mmol) in EtOH at 30° C. was treated with ethyl acetoacetate (103 g, 790 mmol) maintaining temperature. Then acrylonitrile (41.9 g, 790 mmol) was added dropwise over 15 minutes. The reaction was capped and stirred for 4 hours. The solution was concentrated and the resulting solid was dissolved in 20 mL of water and 3 mL of acetic acid, and washed with 50 mL of DCM. The organic layer was dried over Na2SO4 and concentrated to an oil. Distillation was performed under reduced pressure (0.5 mm) with a bath temperature of 80° C. Fractions were collected and concentrated to provide A-1 as a colorless oil. Data for A-1: LC/MS: m/z (M+H)=183.87 found; 183.20 required

reactant | sodium | 19.75 mmol, 450 mg | [Na] | Na
reactant | ethyl acetoacetate | 790 mmol, 103 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acrylonitrile | 790 mmol, 41.9 g | C(C=C)#N | C3H3N
solvent | EtOH | CCO | C2H6O
product | Ethyl 2-(2-cyanoethyl)-3-oxobutanoate | C(#N)CCC(C(=O)OCC)C(C)=O | C9H13NO3
